US06774132B1
3-Allyl-3-[allyl(methyl)aminomethyl]-indolin-2-one. Oxindole was acylated with ethyl acetate in the presence of sodium ethoxide as described (Chem. Abstr. 1953, 47, p7488). The crude product (9.16 g; 52.3 mmol) was treated with sodium hydride (56 mmol) in DMF at ice bath temperature for 30 min. Allyl bromide (51 mmol) was added and the reaction mixture left at room temperature overnight. The crude product after workup was purified by SGC (EtOAc/isohexanes 1:2). The acetyl group was removed by treatment with triethylamine/water 1:1 at 65° C. for 12 h and the the 3-allyloxindole thus obtained was treated with an excess of allylmethylamine and one equivalent of paraformaldehyde in acetic acid at 70 for 4 h. The crude material after evaporation of solvents was partioned between DCM and basic water. SGC using EtOAc/isohexanes 1:1 gave a reddish oil of the title product(83%).

reactant | 3-Allyl-3-[allyl(methyl)aminomethyl]-indolin-2-one | C(C=C)C1(C(NC2=CC=CC=C12)=O)C(NC)CC=C | C16H20N2O
reactant | Oxindole | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium hydride | 56 mmol | [H-].[Na+]
reactant | Allyl bromide | 51 mmol | C(C=C)Br | C3H5Br
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-allyloxindole | C(C=C)C1C(NC2=CC=CC=C12)=O | C11H11NO
